data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
2337,2595,[CH3:13][O:14][C:15](=[O:16])[C:17]([C:18](=[O:19])[O:20][CH3:21])=[N+:22]([CH3:23])[C-:24]([CH3:25])[C:26]([CH3:27])=[O:28].[F:1][C:2]([F:3])([F:4])[C:5]1=[C:6]([Br:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2>>[F:1][C:2]([F:3])([F:4])[C:5]12[C:6]([Br:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[C:24]([CH3:25])([C:26]([CH3:27])=[O:28])[N:22]([CH3:23])[C:17]2([C:15]([O:14][CH3:13])=[O:16])[C:18](=[O:19])[O:20][CH3:21],water,298.15,42.720134272351046,4.840356588024151
4127,4722,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[N+:18]([CH3:19])[CH-:20][C:21]#[N:22]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:15]([C:13]([O:12][CH3:11])=[O:14])([C:16]#[N:17])[N:18]([CH3:19])[CH:20]2[C:21]#[N:22],water,298.15,12.21155654263753,-19.667656168472146
2531,2811,[CH3:17][O:18][C:19](=[O:20])[C:21](=[NH+:22][NH-:23])[C:24](=[O:25])[O:26][CH3:27].[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]#[C:9][C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1>>[N:1]#[C:2][C:3]1([C:4]([F:5])([F:6])[F:7])[C:8]2=[C:9]([C:10]([Br:11])([Br:12])[CH2:13][CH2:14][CH2:15][CH2:16]1)[NH:23][NH:22][C:21]2([C:19]([O:18][CH3:17])=[O:20])[C:24](=[O:25])[O:26][CH3:27],water,298.15,18.966896222875448,-25.744239116341102
2794,3104,[CH3:14][C:15](=[O:16])[C:17]([CH3:18])=[NH+:19][C-:20]([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1.[N:1]#[C:2][C:3]1([Br:4])[C:5]#[C:6][C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1>>[N:1]#[C:2][C:3]1([Br:4])[C:5]2=[C:6]([C:7]([Br:8])([Br:9])[CH2:10][CH2:11][CH2:12][CH2:13]1)[C:17]([C:15]([CH3:14])=[O:16])([CH3:18])[NH:19][C:20]2([C:21]([CH3:22])=[O:23])[c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1,water,298.15,17.320468443122078,-28.843213657280675
3673,4193,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][O:8][C:9](=[O:10])[CH:11]=[NH+:12][N-:13][c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[N:13]([c:14]2[cH:15][cH:16][cH:17][cH:18][cH:19]2)[NH:12][CH:11]1[C:9]([O:8][CH3:7])=[O:10],water,298.15,26.16829184213268,-5.241602312827098
2457,2725,[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]#[C:11][C:12]([C:13]#[N:14])([C:15]#[N:16])[CH2:17][CH2:18][CH2:19][CH2:20]1.[CH3:21][C:22](=[O:23])[C:24]#[N+:25][C-:26]([C:27]([CH3:28])=[O:29])[c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([C:6](=[O:7])[O:8][CH3:9])[C:10]2=[C:11]([C:12]([C:13]#[N:14])([C:15]#[N:16])[CH2:17][CH2:18][CH2:19][CH2:20]1)[C:26]([C:27]([CH3:28])=[O:29])([c:30]1[cH:31][cH:32][cH:33][cH:34][cH:35]1)[N:25]=[C:24]2[C:22]([CH3:21])=[O:23],water,298.15,9.251139555301965,-58.13380373585318
1938,2148,[CH3:12][C:13](=[O:14])[C:15]([C:16]#[N:17])=[NH+:18][C-:19]([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1.[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([Br:6])[CH:7]2[CH2:8][CH2:9][CH:10]1[CH2:11]2>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([Br:6])([CH:7]3[CH2:8][CH2:9][CH:10]1[CH2:11]3)[C:15]([C:13]([CH3:12])=[O:14])([C:16]#[N:17])[NH:18][C:19]2([C:20]#[N:21])[c:22]1[cH:23][cH:24][cH:25][cH:26][cH:27]1,water,298.15,28.47669121635308,7.164524903388347
2814,3128,[CH3:16][NH:17][C:18](=[O:19])[C-:20]([N+:21]#[C:22][C:23]([CH3:24])=[O:25])[C:26](=[O:27])[O:28][CH3:29].[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]#[C:8][C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Br:6])[C:7]2=[C:8]([C:9]([Br:10])([Br:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:20]([C:18]([NH:17][CH3:16])=[O:19])([C:26](=[O:27])[O:28][CH3:29])[N:21]=[C:22]2[C:23]([CH3:24])=[O:25],water,298.15,16.263353748180588,-45.973290043842354
346,376,[CH3:1][C:2](=[O:3])[C:4]1=[C:5]([C:6]#[N:7])[CH:8]2[CH2:9][CH2:10][CH:11]1[CH2:12]2.[CH:13]#[N+:14][C-:15]([CH3:16])[C:17](=[O:18])[NH:19][CH3:20]>>[CH3:1][C:2](=[O:3])[C:4]12[C:5]([C:6]#[N:7])([CH:8]3[CH2:9][CH2:10][CH:11]1[CH2:12]3)[CH:13]=[N:14][C:15]2([CH3:16])[C:17](=[O:18])[NH:19][CH3:20],water,298.15,13.539559983619098,-36.86655643622352
2405,2671,[CH3:18][O:19][C:20](=[O:21])[N-:22][N+:23]([CH3:24])=[C:25]([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([c:7]2[cH:8][cH:9][cH:10][cH:11][cH:12]2)[CH:13]2[CH2:14][CH2:15][CH:16]1[CH2:17]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]12[C:6]([c:7]3[cH:8][cH:9][cH:10][cH:11][cH:12]3)([CH:13]3[CH2:14][CH2:15][CH:16]1[CH2:17]3)[N:22]([C:20]([O:19][CH3:18])=[O:21])[N:23]([CH3:24])[C:25]2([C:26]([CH3:27])=[O:28])[c:29]1[cH:30][cH:31][cH:32][cH:33][cH:34]1,water,298.15,37.65932823912021,8.610127166715502
